US07598249B2
1-(3,4-Dibromo-benzyl)-piperazine (intermediate)
A suspension of 4-(3,4-dibromo-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (6.0 g) in MeOH (100 mL) was treated with 2 M HCl in Et2O (28 mL). After 16 h, the resulting suspension was diluted with Et2O (100 mL) and filtered. The solid was washed with Et2O (2×20 mL) and dried in vacuo, giving a white solid (5.0 g). This solid was partitioned between 10% aq. KOH (50 mL) and DCM (3×50 mL). The combined organic extracts were dried (MgSO4) and concentrated to give the title compound as a colorless glassy oil.

reactant | 4-(3,4-dibromo-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 6.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)Br)Br | C16H22Br2N2O2
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
solvent | Et2O | 28 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 1-(3,4-Dibromo-benzyl)-piperazine | 5.0 g | BrC=1C=C(CN2CCNCC2)C=CC1Br | C11H14Br2N2
